US04804665
8-tert-Butyloxycarbonyl-2-hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione
In a mixture solvent consisting of water (50 ml) and dioxane (50 ml) was dissolved 2-hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione.hydrochloride (8.35 g). To the solution were added triethylamine (14 ml) and 2-(tert. butyloxycarbonylthio)-4,6-dimethylpyrimidine (9.6 g). The mixture was stirred for 2 hours at room temperature. The solvent was evaporated off under reduced pressure, and the residual oil was evaporated in 100 ml of ethyl acetate. To the solution was added 100 ml of a saturated aqueous solution of sodium hydrogencarbonate. The aqueous layer was made acid with a solid citric acid, followed by extraction with 100 ml of ethyl acetate. The organic layer was washed with 50 ml of 1N hydrochloric acid and water, which was then dried over anhydrous magnesium sulfate, followed by evaporating off the solvent to leave an oil. This oil was solidified with diethyl ether-n-hexane, which was collected by filtration to obtain 9.6 g of a colorless solid, m.p. 151° to 154° C.

reactant | water | 50 ml | O | H2O
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | 2-hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione.hydrochloride | 8.35 g | Cl.ON1C(C2(CC1=O)CCNCC2)=O
reactant | 2-(tert. butyloxycarbonylthio)-4,6-dimethylpyrimidine | 9.6 g | C(C)(C)(C)OC(=O)SC1=NC(=CC(=N1)C)C | C11H16N2O2S
solvent | diethyl ether n-hexane | C(C)OCC.CCCCCC
solvent | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
product | 8-tert-Butyloxycarbonyl-2-hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione | 9.6 g | C(C)(C)(C)OC(=O)N1CCC2(CC(N(C2=O)O)=O)CC1 | C13H20N2O5
